.include 22nm_HP.pm
.options GMIN=1e-020 ABSTOL=1e-18

.param Lmin=22n
.param Wmin=22n
.param Ldiff=44n

Mp1 Dn1 G1 Sp1 Bp1 pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mp2 Dn1 G2 Sp1 Bp2 pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Mn1 Dn1 G1 Sn1 Bn1 nmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}
Mn2 Sn1 G2 Sn2 Bn2 nmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}

Mp3 D1 Dn1 0.9 0.9 pmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}
Mn3 D1 Dn1 0 0 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}


vdd Sp1 0 0.8
vss Sn2  0 0
vg1 G1  0 0
vg2 G2  0 0
vbp1 Bp1 Dp1 0
vbp2 Bp2 Sp1 0
vbn1 Bn1 Sn1 0
vbn2 Bn2 Sn2 0


.control
echo "" > and_00.txt
dc TEMP 25 50 60
let ip1 = @Mp1[W]
let ip2 = @Mp2[W]
let in1 = @Mn1[W]
let in2 = @Mn2[W]
let leakage_gate = (abs(I(vg1))+abs(I(vg2)))
let leakage_body = (abs(I(vbn1))+abs(I(vbn2))+abs(I(vbp1))+abs(I(vbp2)))
let leakage_sub = (abs(I(vdd)+abs(I(vss))))
print @Mp1[W] @Mp1[W] @Mn1[W] @Mn2[W] V(G1) V(G2) V(Sp1) V(Dn1) V(Sn2) V(Sn1) I(vdd) I(vss) I(vg1) I(vg2) I(vbp1) I(vbp2) I(vbn1) I(vbn2) leakage_body leakage_gate leakage_sub
echo "25" "$&ip1" "$&ip2" "$&in1" "$&in2" "$&I(vdd)" "$&I(vss)" "$&I(vg1)" "$&I(vg2)" "$&I(vbp1)" "$&I(vbp2)" "$&I(vbn1)" "$&I(vbn2)"  >> and_00.txt
.endc
.end