.include 22nm_HP.pm
.options GMIN=1e-020 ABSTOL=1e-18
.temp 25

.param Lmin=22n
.param Wmin=22n
.param Ldiff=44n

M1 drain gate source body nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
Vd 	drain	0		0
Vg 	gate	0		0
Vs 	source	0		0
Vb 	body	0		0



.control
echo "Temp M1[W] V(gate) I(Vd) I(Vg) I(Vs) I(Vb)" > nmos_simulation_results.txt
let i=22
while i <= 176

    alter @M1[W] = i*1n
    dc Vg 0 0.8 0.1
    print @M1[W] V(gate) I(Vd) I(Vg) I(Vs) I(Vb)  
    echo "25" "$&i" "$&V(gate)" "$&I(Vd)" "$&I(Vg)" "$&I(Vs)" "$&I(Vb)" >> nmos_simulation_results.txt
    let i = i+22
    
end

.endc
.end