.include 22nm_HP.pm
.options GMIN=1e-020 ABSTOL=1e-18
.temp 25
.param Lmin=22n
.param Wmin=22n
.param Ldiff=44n

Mp1 out G0 Sp1 Bp1 pmos W={2*Wmin} L={Lmin} AS={2*Wmin*Ldiff} AD={2*Wmin*Ldiff} PS={2*(Ldiff+2*Wmin)} PD={2*(Ldiff+2*Wmin)}
Mn1 out G0 Sn1 Bn1 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}



vdd Sp1 0 0.8
vss Sn1  0 0
vg1 G0  0 0.8
vbp1 Bp1 Sp1 0
vbn1 Bn1 Sn1 0

.control
dc TEMP 25 50 60
let leakage_gate = abs(I(vg1))
let leakage_body = (abs(I(vbn1))+abs(I(vbp1)))
let leakage_sub = abs(I(vss))
print  V(G0) V(Sp1) V(out) V(Sn1) V(Sn1) I(vdd) I(vss) I(vg1) I(vbp1)  I(vbn1)  leakage_body leakage_gate leakage_sub
.endc
.end