.include 22nm_HP.pm
.option GMIN=1e-020 ABSTOL=1e-18 temp=25

.param Lmin=22n
.param Wmin=176n
.param Ldiff=44n

M1 D1 G1 S1 B1 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
M2 S1 G2 S2 B2 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vd  D1	  alim     0
Vg1 G1	  0	    0
Vg2 G2	  0	    0
Vs 	S2	  0		0
Vb1 B1	  0		0
Vb2 B2	  0		0

Vdd alim  0	  0


.control
echo "" > W6nmos_off_simulation_results.txt
let voltage=0
let Vddbasic=0.8
while voltage le Vddbasic
  let voltage = voltage + 0.05
  alter Vdd = voltage
  dc TEMP 25 50 60
  print @M1[W] abs(V(alim)) V(D1) V(S1) V(G1) V(G2) V(S2) V(B1) V(B2) I(Vd) I(Vg1) I(Vg2) I(Vs) I(Vb1) I(Vb2)
  let i = @M1[W]
  echo "25" "$&i" "$&voltage" "$&V(D1)" "$&V(S1)" "$&V(G1)" "$&V(G2)" "$&V(S2)" "$&V(B1)" "$&V(B2)" "$&I(Vd)" "$&I(Vg1)" "$&I(Vg2)" "$&I(Vs)" "$&I(Vb1)" "$&I(Vb2)" >> W6nmos_off_simulation_results.txt
end
.endc
.end