.include 22nm_HP.pm
.option GMIN=1e-020 ABSTOL=1e-18 temp=25

.param Lmin=22n
.param Wmin=22n
.param Ldiff=44n

M1 D1 G1 S1 B1 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
M2 S1 G2 S2 B2 nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vd 	D1	  0     0
Vg1 	G1	  alim1	0
Vg2 	G2	  alim2	0
Vs 	S2	0		  0
Vb1 	B1	  0		  0
Vb2 	B2	  0		  0

Vdd1 alim1	  0 0
vdd2 alim2 0 0


.control
echo "" > W1nmos_ON_simulation_results.txt
let voltage1=0
let voltage2=0
let Vddbasic=0.8
while voltage1 le Vddbasic
  let voltage1 = voltage1 + 0.05
    while voltage2 le vddbasic
        let voltage2 = voltage2 + 0.05
        alter Vdd1 = voltage1
        alter vdd2 = voltage2
        dc TEMP 25 50 60
        print @M1[W] abs(V(alim1)) abs(V(alim2)) V(D1) V(S1) V(G1) V(G2) V(S2) V(B1) V(B2) I(Vd) I(Vg1) I(Vg2) I(Vs) I(Vb1) I(Vb2)
        let i = @M1[W]
        echo "25" "$&i" "$&voltage1" "$&voltage2" "$&V(D1)" "$&V(S1)" "$&V(G1)" "$&V(G2)" "$&V(S2)" "$&V(B1)" "$&V(B2)" "$&I(Vd)" "$&I(Vg1)" "$&I(Vg2)" "$&I(Vs)" "$&I(Vb1)" "$&I(Vb2)" >> W1nmos_ON_simulation_results.txt
    end
  let voltage2  = 0
end
.endc
.end