.include 22nm_HP.pm
.option GMIN=1e-020 ABSTOL=1e-18 temp=25

.param Lmin=22n
.param Wmin=176n
.param Ldiff=44n

M1 D1 G1 S1 B1 pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}
M2 D2 G2 D1 B2 pmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vd 	D2	  0     0.8
Vg1 	G1	  alim	0
Vg2 	G2	  alim	0
Vs 	S1	0		  0.8
Vb1 	B1	  S1		  0
Vb2 	B2	  D1		  0

Vdd alim	  0


.control
echo "" > W6pmos_ON_simulation_results.txt
let voltage=0
let Vddbasic=0.8
while voltage le Vddbasic
  let voltage = voltage + 0.05
  alter Vdd = voltage
  dc TEMP 25 50 60
  print @M1[W] abs(V(alim)) V(D2) V(S1) V(G1) V(G2) V(D2) V(B1) V(B2) I(Vd) I(Vg1) I(Vg2) I(Vs) I(Vb1) I(Vb2)
  let i = @M1[W]
  echo "25" "$&i" "$&voltage" "$&V(D1)" "$&V(S1)" "$&V(G1)" "$&V(G2)" "$&V(D2)" "$&V(B1)" "$&V(B2)" "$&I(Vd)" "$&I(Vg1)" "$&I(Vg2)" "$&I(Vs)" "$&I(Vb1)" "$&I(Vb2)" >> W6pmos_ON_simulation_results.txt
end
.endc
.end